US08114877B2
a) 2,6-Dichloro-9-[(1R,4S)-4-(5-ethyl-tetrazol-2-yl)-cyclopent-2-enyl]-9H-purine
Carbonic acid (1S,4R)-4-(2,6-dichloro-purin-9-yl)-cyclopent-2-enyl ester ethyl ester (Intermediate AC) (3 g, 8.75 mmol), 5-Ethyl-2H-tetrazole (0.94 g. 9.62 mmol), tris(dibenzylideneacetone)dipalladium(0) (0.40 g, 0.44 mmol) and triphenylphosphine (0.35 g, 1.32 mmol) are placed in an oven-dried flask under an atmosphere of argon. Dry deoxygenated THF (40 mL) is added and the reaction mixture is stirred gently for 5 minutes. Triethylamine (20 mL) is added and the reaction mixture is stirred at room temperature for 1 hour. The reaction mixture is allowed to cool and the solvent is removed in vacuo. The residue was taken up in methanol (50 mL) and the solid was filtered off-product. 1H nmr (CDCl3, 400 MHz); 8.55 (s, 1H), 6.35 (m, 1H), 6.25 (m, 1H), 6.05 (m, 1H), 5.90 (m, 1H), 3.45 (m, 1H), 2.85 (q, 2H), 2.30 (m, 1H), 1.30 (t, 3H), MS (ES+) m/e 351 (MH+).

reactant | Carbonic acid (1S,4R)-4-(2,6-dichloro-purin-9-yl)-cyclopent-2-enyl ester ethyl ester | 8.75 mmol, 3 g | C(C)OC(O[C@@H]1C=C[C@@H](C1)N1C2=NC(=NC(=C2N=C1)Cl)Cl)=O | C13H12Cl2N4O3
reactant | 5-Ethyl-2H-tetrazole | 9.62 mmol, 0.94 g | C(C)C=1N=NNN1 | C3H6N4
reactant | triphenylphosphine | 1.32 mmol, 0.35 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.44 mmol, 0.40 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2,6-Dichloro-9-[(1R,4S)-4-(5-ethyl-tetrazol-2-yl)-cyclopent-2-enyl]-9H-purine | ClC1=NC(=C2N=CN(C2=N1)[C@H]1C=C[C@H](C1)N1N=C(N=N1)CC)Cl | C13H12Cl2N8
